US06800629B2
In 3.0 mL of N,N-dimethylformamide was dissolved 0.3 g of methyl 3,6-difluoro-2-pyrazinecarboxylate. After adding 0.16 g of sodium acetate at an ice-cooled temperature, the mixture thus obtained was stirred at 50° C. for 2.5 hours. The reaction mixture was poured into a mixture of 50 mL of ethyl acetate and 30 mL of water, and the organic layer was separated. The remaining aqueous phase was extracted with three 25 mL portions of ethyl acetate. The organic layers were united, washed successively with 15 mL of water and 15 ml of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography [eluent: n-hexane:ethyl acetate=1:2] to obtain 0.03 g of methyl 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarboxylate as a colorless solid product.

reactant | methyl 3,6-difluoro-2-pyrazinecarboxylate | 0.3 g | FC=1C(=NC(=CN1)F)C(=O)OC | C6H4F2N2O2
reactant | sodium acetate | 0.16 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | methyl 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 0.03 g | FC1=CNC(C(=N1)C(=O)OC)=O | C6H5FN2O3
